US08383644B2
2,3-Dimethylpyridine-4-boronic acid
A solution of 4-bromo-2,3-dimethyl-pyridine (1.38 g) and triisopropyl borate (2.05 mL) in 4 mL dry THF and 14 mL dry toluene was stirred on a dry ice-aceton bath to an internal temperature of −65° C. and 3.56 mL n-BuLi in hexanes was added dropwise over 0.5 h. Stirring continued at −65° C. for additional 2 h, then the bath was removed the mixture allowed to warm to −20° C. Reaction was quenched by addition of 10 mL 2M HCl, then allowed to warm to rt and diluted with more THF. 5M NaOH was added until the mixture reached pH 7, layers formed and the organic layer was collected. Several more extractions with THF were done and the combined organic extracts were dried with brine and Na2SO4 and concentrated under reduced pressure. The product crystallized and two crops were collected, for a total of 304 mg of 2,3-dimethylpyridine-4-boronic acid. LCMS (m/z) 153.

reactant | 4-bromo-2,3-dimethyl-pyridine | 1.38 g | BrC1=C(C(=NC=C1)C)C | C7H8BrN
reactant | triisopropyl borate | 2.05 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-BuLi | 3.56 mL | [Li]CCCC
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dimethylpyridine-4-boronic acid | CC1=NC=CC(=C1C)B(O)O | C7H10BNO2
